Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS: 
___ is a ___ year old man with relapsed mantle cell
lymphoma who is admitted from the ED after syncopizing during
rituximab infusion in clinic.

Patient was diagnosed with relapsed MCL during admission in
___ in the setting of 'convulsive syncope', which patient 
has
had on and off for at least a year. That admission was notable
for extensive workup including telemetry monitoring, PPM
interrogation, EEG, and CTH - all negative except new lacunar
infarct on CT. MRI brain was notable for right occipital FLAIR
hyperintense enhancement; LP showed elevated protein but 
negative
for lymphoma. He was later admitted to the ICU from ___ to
___ for septic shock and pneumonia; he completed treatment
with cefpodoxime and azithromycin. 

He presented to clinic today to initate treatment for his
relapsed MCL with rituximab. Per nursing clinic note:

"[Patient] given premeds as ordered, Rituxan started at ___
infusion rate, was up to 100mg/hr and pt's face slightly 
flushed.
VSS. No other sx. Pt then called to say he was nauseated approx.
20mins into the 100mg/hr rate. When entered pts room pt was 
ashen
and staring straight ahead and eyes rolled upward. Started
vomiting and unresponsive for a few seconds.  Suction obtained
and pt put on his side. Immediately became responsive again. No
further seizure activity Rituxan was stopped immediately.  Seen
by Dr. ___ NP. Pt [was] sent to ED." 

Patient denies any bowel or bladder incontinence and there was 
no
tongue biting. His wife notes he had some bilateral arm shaking.
He awoke without post-ictal state and currently feels well.

Since his prior admission he has been generally weak and 
fatigued
but without acute complaint. No fevers or chills. No headaches 
or
diplopia. No dysphagia. No recent URTI symptoms although he has 
a
chronic cough. No CP or SOB. No N/V/D. Normal BM today. He 
denies
orthostatic sytmpoms. No new leg pain or swelling. He has
intermittent positional neuropathy in his left leg. He reports 
he
passes out once every few months. His wife reports his last
episode was in ___. 

In the ED, initial VS were pain 0, T 95.9, HR 80, BP 110/78, RR
18, O2 97%RA. Labs notable for Na 141, K 5.1, HCO3 20, Cr 1.2,
WBC 6.2, HCT 37.1, PLT 78. LFT's and urate from earilier in day
were normal. CXR showed no acute process. EKG showed sinus 
rhythm
with PAC's. EP was consulted, who felt cardgiogenic cause was
unlikely. He was admitted to ___ for further management.

 
Past Medical History:
ONCOLOGIC HISTORY:
 * ___ - C1 CHOP
 * ___ - Admitted urgently due to choroidal cellular
infiltrate in the left eye concerning for CNS involvement from
his Mantle Cell lymphoma/leukemia.  MRI imaging consistent with
this. 
 * ___ - High dose methotrexate, complicated by acute renal
insufficiency with creatinine peaking at 2.2 felt most likely
from precipitation in the renal tubules.  Creatinine has 
trending
downward, stabilizing at 1.5. Discharged on ___.
 * ___ and ___ - Received Rituxan in divided doses
with mild reaction. 
 * ___ - High dose Ara-C.  Dose decreased to 1000 mg/m2 
due
to his age and renal function; received 2 doses on ___, 1 dose
on ___ and 1 dose on ___.  On Neupogen support during nadir,
required transfusion of red cells and platelets.
 * ___ - C2 RCHOP 
 * ___ - High dose Ara-C.  Dose decreased to 1000 mg/m2 
due
to age and renal function.  High dose MTX on hold with renal
insufficiency.
 * ___ - C3 RCHOP
 * Restaging scan shows interval improvement of lymphoma.  MRI 
of
head with resolution of previous enhancement.  
 * ___ - High dose Ara-C.  Dose decreased to 1000 mg/m2 due
to age and renal function. 
 * ___ - Repeat LP and IT Ara-C given
 * ___ - High dose cytoxan for stem cell mobilization
 * ___ - Started stem cell collections with Neupogen and
Mozibil and collected ~ 5 million CD34 cells/kg over 4 days.
 .
PAST MEDICAL HISTORY:  
- Mantle cell lymphoma/leukemia
- Heterozygous for Factor V Leiden and low Protein S activity of
39%, repeated on ___, now normal 
- Hypertension
- Prostate hypertrophy 
- Arthritis  
- Erectile dysfunction  
- Diverticulosis  
- Disc degeneration, lumbar  
- Sensorineural hearing loss with longstanding tinnitus
- Status post appendectomy
- Status post prostate biopsy (incisional)
- Status post repair of deviated nasal septum

 
Social History:
___
Family History:
No lymphoma or leukemia in family. Mother had bone cancer, died 
at age ___ with also history of ___. Father died at age 
___ with h/o hypertension, stroke. One brother s/p CABG, stroke 
and ETOH use.
 
Physical Exam:
==========================
ADMISSION PHYSICAL EXAM: 
========================== 
VS: T 97.8 HR 89 BP 112/73 RR 18 SAT  97% O2 on RA
GENERAL: Pleasant and generally well appearing man sitting up in
bed in no distress
EYES: Anicteric sclerea, PERLL, EOMI; 
ENT: MMM, Oropharynx clear without lesion, JVD not elevated 
CARDIOVASCULAR: Regular rate and rhythm, no murmurs, rubs, or
gallops
RESPIRATORY: Appears in no respiratory distress, clear to
auscultation bilaterally, no crackles, wheezes, or rhonchi
GASTROINTESTINAL: Normal bowel sounds; nondistended; soft,
nontender without rebound or guarding; no hepatomegaly, no
splenomegaly
MUSKULOSKELATAL: Warm, well perfused extremities without lower
extremity edema; Normal bulk 
NEURO: Alert, oriented, CN III-XII intact, full strength in all
extremities. Cerebellar fxn intact to FTN bilaterally
SKIN: No significant rashes
ACCESS: L antecubital PIV

==========================
DISCHARGE PHYSICAL EXAM
==========================
24 HR Data (last updated ___ @ 1327)
    Temp: 98.2 (Tm 98.3), BP: 99/59 (99-133/59-79), HR: 81
(67-84), RR: 18 (___), O2 sat: 96% (94-97), O2 delivery: ra,
Wt: 189.2 lb/85.82 kg     
GENERAL: NAD
CARDIOVASCULAR: RRR, no murmurs, rubs, or
gallops
RESPIRATORY: Appears in no respiratory distress, clear to
auscultation bilaterally, no crackles, wheezes, or rhonchi
MUSKULOSKELATAL: Warm, well perfused extremities without lower
extremity edema
NEURO: AOx3, CN II-XII grossly intact, hyperreflexia in the ___,
otherwise strength ___ in the UE and ___
SKIN: No significant rashes
ACCESS: L antecubital PIV

 
Pertinent Results:
========================
ADMISSION LABS
========================

___ 02:42PM   LACTATE-1.6
___ 02:35PM   GLUCOSE-130* UREA N-25* CREAT-1.2 SODIUM-141 
POTASSIUM-5.1 CHLORIDE-108 TOTAL CO2-20* ANION GAP-13
___ 02:35PM   CK-MB-2 cTropnT-<0.01
___ 02:35PM   WBC-6.2 RBC-3.95* HGB-12.1* HCT-37.1* MCV-94 
MCH-30.6 MCHC-32.6 RDW-13.7 RDWSD-47.1*
___ 02:35PM   NEUTS-94.3* LYMPHS-2.6* MONOS-1.6* EOS-0.3* 
BASOS-0.2 IM ___ AbsNeut-5.81 AbsLymp-0.16* AbsMono-0.10* 
AbsEos-0.02* AbsBaso-0.01
___ 02:35PM   PLT COUNT-78*
___ 08:35AM   UREA N-24* CREAT-1.1 SODIUM-142 POTASSIUM-4.4 
CHLORIDE-105 TOTAL CO2-26 ANION GAP-11
___ 08:35AM   ALT(SGPT)-22 AST(SGOT)-26 LD(LDH)-204 ALK 
PHOS-97 TOT BILI-0.5
___ 08:35AM   TOT PROT-7.0 ALBUMIN-4.1 GLOBULIN-2.9 
CALCIUM-9.1 MAGNESIUM-2.3 URIC ACID-6.5
___ 08:35AM   TOT PROT-6.6
___ 08:35AM   PEP-NO SPECIFI IgG-650* IgA-193 IgM-139
___ 08:35AM   WBC-5.0 RBC-4.16* HGB-12.6* HCT-39.3* MCV-95 
MCH-30.3 MCHC-32.1 RDW-13.8 RDWSD-47.6*
___ 08:35AM   NEUTS-63.3 ___ MONOS-10.1 EOS-4.4 
BASOS-0.4 IM ___ AbsNeut-3.14 AbsLymp-1.06* AbsMono-0.50 
AbsEos-0.22 AbsBaso-0.02
___ 08:35AM   PLT COUNT-102*

========================
IMAGING STUDIES
========================
CXR ___
No acute cardiopulmonary process.

CTH ___
No acute intracranial abnormality.

Transthoracic Echo ___
No structural cardiac cause of syncope identified. Mild 
symmetric left ventricular
hypertrophy with normal cavity size, and hyperdynamic 
regional/global systolic function.
Posterior mitral valve prolapse with moderate to severe 
holosystolic anteriorly directed mitral
regurgitation. Mild aortic regurgitation. Mild pulmonary artery 
systolic hypertension.

MRI CERVICAL THORACIC ___. No evidence of cord signal abnormality or abnormal 
enhancement. 
2. Moderate to severe degenerative change of the lumbar spine, 
most severe at 
L2-L3 and L3-L4 as described above, including severe loss of 
intervertebral 
disc height, likely chronic mild retrolisthesis, and moderate 
spinal canal 
stenosis secondary to posterior disc protrusion/osteophyte 
complex. 
3. Moderate to severe multilevel lumbar foraminal narrowing, 
most severe at 
L2-L3 and L3-L4. 
4. Mild to moderate degenerative change of the cervical spine, 
most severe at 
C4-C5 and C5-C6, with mild spinal stenosis secondary to 
posterior disc 
protrusions and moderate right-sided foraminal narrowing. 

MRI & MRA BRAIN AND MRA ___. No evidence of acute infarction or hemorrhage. 
2. Previously demonstrated FLAIR hyperintensity and 
leptomeningeal enhancement 
within the medial right occipital lobe is no longer visualized 
on the current 
study. 
3. Stable appearance of a 6 mm focus of of isointense soft 
tissue adjacent to 
brain parenchyma in the region of the right middle cerebellar 
peduncle, 
unchanged compared to multiple prior studies dating back to ___ 
and without 
evidence of abnormal enhancement.  This could represent normal 
brain 
parenchyma, post treatment change, or benign entity such as 
hamartoma. 
4. Diminutive right vertebral artery with chronic occlusion in 
the region of 
the distal V3 segment, unchanged compared to multiple prior MRI 
studies dated 
as early as ___. 
5. Patent circle of ___ without definite evidence of 
stenosis,occlusion,or 
aneurysm. 
6. Patent bilateral cervical carotid arteries without definite 
evidence of 
stenosis, occlusion, or dissection.  Dominant left vertebral 
artery without 
evidence of stenosis or occlusion 

========================
DISCHARGE LABS
========================
___ 09:18AM BLOOD Plt Ct-90*
___ 09:18AM BLOOD Glucose-94 UreaN-19 Creat-1.1 Na-143 
K-4.5 Cl-106 HCO3-25 AnGap-12
___ 07:45PM BLOOD Neuts-59.4 ___ Monos-11.3 Eos-4.0 
Baso-0.2 Im ___ AbsNeut-2.51 AbsLymp-1.04* AbsMono-0.48 
AbsEos-0.17 AbsBaso-0.01
 
Brief Hospital Course:
===============================
PATIENT SUMMARY STATEMENT
===============================
___ man with past medical history of mantle cell 
lymphoma complicated by ocular and CNS involvement (s/p auto 
transplant, maintenance ritux ending ___, now with 
recurrence and was started
on rituximab, a history of recurrent syncope, SSS status post
pacemaker, pAFib (Eliquis) who presents with vasovagal syncope 
which occurred during rituximab infusion.

===============================
ACTIVE ISSUES:
===============================

#Syncope
Patient was 20 minutes into his rituximab infusion when he was 
noted to have a red face. He then developed nausea and this was 
the last thing he remembered. Per nursing, he had moments of 
staring, vomited and then synopsized. He presented to the ED 
where his vitals signs were stable. Of note, patient has already 
received a extensive workup at last hospitalization a few months 
ago. This included an MRI that
showed possible recurrence of CNS lymphoma but with one negative
LP and per discharge summary this was not felt to be consistent
with CNS recurrence. He also had a continuous EEG for 3 days
during the hospitalization that did not show any epileptiform
discharges or seizure activity. Overall this current spell seems 
consistent with the one he was admitted for in ___ and 
likely represents a vasovagal syncope. 

During this admission, his neurologic exam was nonfocal but 
notable for hyperreflexia throughout including clonus in 
bilateral ankles. Brisk reflexes felt likely due to chronic 
cervical spinal disease which was confirmed on MRI spine. 
Patient also had full cardiac work-up including interrogation of 
pacemaker which was normal. TTE without cause for syncope and 
troponins were negative. LP was deferred given no signs of 
infection and low concern for CNS disease. Ultimately, his 
symptoms were felt to be a result of vasovagal syncope with some 
components of orthostatics. Patient was counseled on isometric 
counterpressure maneuvers and will be discharged with 
compression stockings. Patient will require tilt-table test as 
outpatient.

#Recurrent Mantle Cell Lymphoma
Patient was found to have disease relapse in ___ with 
plan to initiate R2 with ritux infusion aborted on ___ due to 
syncope. Rituximab was redosed on ___ uneventfully. Patient to 
hold revlimid till outpatient appointment with Dr. ___. He 
received prophylaxis with acyclovir

#Thrombocytopenia
Not far off of recent baseline; likely related to relapsed
lymphoma. Platelets on discharge were 90k.

===============================
CHRONIC ISSUES
===============================

#Sick sinus syndrome s/p pacemaker
#AFib
Continued home apixiban. EP evaluated pacemaker and felt to be 
functioning appropriately.

#BPH
Continued home tamsulosin.

#HTN
Has been off losartan since recent admission so continued to 
hold this medication.

#Prior CVA
No longer on ASA; Apixiban as above and continued home statin

===============================
TRANSITIONAL ISSUES
===============================
Hg: 11.9
Plts: 90

[]Patient to continue holding revlimid till appointment with Dr. 
___
[]Tilt table testing as outpatient.
[]Patient to follow-up with outpatient neurologist, phone number 
provided in discharge paperwork.
[] Patient to follow-up with Dr. ___ treatment of 
relapsed MCL. 

===============================
CODE: Full (presumed) 
EMERGENCY CONTACT HCP: ___: wife
Phone number: ___
Cell phone: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Apixaban 5 mg PO BID 
3. Atorvastatin 80 mg PO QPM 
4. FoLIC Acid 1 mg PO DAILY 
5. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
6. Cyanocobalamin 1000 mcg PO EVERY OTHER DAY 
7. Multivitamins 1 TAB PO DAILY 
8. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q12H  
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN sob  
3.  Apixaban 5 mg PO BID  
4.  Atorvastatin 80 mg PO QPM  
5.  Cyanocobalamin 1000 mcg PO EVERY OTHER DAY  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Multivitamins 1 TAB PO DAILY  
8.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vasovagal syncope

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you at ___. 

WHY WAS I IN THE HOSPITAL?  
-You came to the hospital because you passed out while receiving 
your rituximab infusion.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
-While you were here, you had a lot of tests to evaluate why you 
were passing out. Labs were normal, your pacemaker is working 
well and the MRI of your brain and spine did not show any 
cancer. It did show degenerative spinal disease which can happen 
as people age.

- We know you have had these passing out spells before and we 
think this is due to your body overreacting to some triggers 
which lowers your blood pressure causing you to faint. We did 
not find any neurological causes for you passing out.
 
WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-If you feel like you are about to pass out, please try crossing 
your legs or tensing your lower body muscle. Lying down and 
raising legs may also be beneficial if it can be done safely. We 
will also discharge you with some compression stockings that 
help push blood to the heart to prevent these episodes.

-Please stop taking your Revlimid until you follow-up with Dr. 
___. 

-Please call your neurologist to schedule a follow-up 
appointment within the next 2 months.

-Please continue to take all your medicines and keep your 
appointments.  

We wish you the best!  
Sincerely,  
Your ___ Team
 
Followup Instructions:
___